US07553976B2
42.3 N-(3,5-di-t-butyl-4-hydroxyphenyl)-5-(4-aminophenyl)-2-furan carboxamide
The experimental protocol used is the same as that described for intermediate 40.1, 2,6-di-t-butyl-4-aminophenol and 5-(4-nitrophenyl)-2-furan carboxylic acid replacing thiazolidine and 4-(t-butoxycarbonylamino)-benzeneacetic acid respectively. The expected compound is obtained in the form of a colourless oil with a yield of 56%.

reactant | 2,6-di-t-butyl-4-aminophenol | C(C)(C)(C)C1=C(C(=CC(=C1)N)C(C)(C)C)O | C14H23NO
reactant | 5-(4-nitrophenyl)-2-furan carboxylic acid | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C(O1)C(=O)O | C11H7NO5
reactant | 4-(t-butoxycarbonylamino)-benzeneacetic acid | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)O | C13H17NO4
product | N-(3,5-di-t-butyl-4-hydroxyphenyl)-5-(4-aminophenyl)-2-furan carboxamide | yield of 56% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC(=O)C=1OC(=CC1)C1=CC=C(C=C1)N | C25H30N2O3
